US04279918
2-(3-methylbenzyl)-1-methylpyrrolidine
Prepare a Grignard solution from 103 g of 3-methylbenzyl chloride and 8 g of magnesium in 400 ml of diethyl ether. With stirring and boiling under reflux, add a solution of 126.9 g of 2,2-diethoxy-1-methylpyrrolidine dropwise to the Grignard solution. Keep the thus-prepared mixture at the boil for a further 1 hour before adding 130 ml of saturated ammonium chloride solution dropwise thereto. Then filter off the magnesium salts and dry the filtrate over sodium sulfate. Free the residue (31 g) from ether and then hydrogenate it with Raney nickel/hydrogen. Distil the hydrogenated product twice under a vacuum to obtain 16.2 g (13% of theory) of the title compound (b.p. 56° to 0.001 mm of Hg).

reactant | 3-methylbenzyl chloride | 103 g | CC=1C=C(CCl)C=CC1 | C8H9Cl
reactant | magnesium | 8 g | [Mg] | Mg
reactant | 2,2-diethoxy-1-methylpyrrolidine | 126.9 g | C(C)OC1(N(CCC1)C)OCC | C9H19NO2
reactant | ammonium chloride | 130 ml | [Cl-].[NH4+]
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 2-(3-methylbenzyl)-1-methylpyrrolidine | CC=1C=C(CC2N(CCC2)C)C=CC1 | C13H19N
